US08486970B2
To a mixed liquid of 269 mg of (3RS,4RS)-2-[(1SR,2SR)-2-aminocyclohexyl]-N-(benzyloxy)-3-(2,4-dichlorophenyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide and 20 ml of ethanol was added 53 mg of nitrourea, followed by heating under reflux for 1 hour. The reaction solution was cooled and then concentrated, and the residue was purified by silica gel column chromatography (eluent: chloroform-methanol), then crystallized with acetonitrile, and collected by filtration to obtain 155 mg of (3RS,4RS)—N-(benzyloxy)-2-[(1SR,2SR)-2-(carbamoylamino)cyclohexyl]-3-(2,4-dichlorophenyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide as a white crystal.

reactant | (3RS,4RS)-2-[(1SR,2SR)-2-aminocyclohexyl]-N-(benzyloxy)-3-(2,4-dichlorophenyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 269 mg | NC1C(CCCC1)N1C(C2=CC=CC=C2C(C1C1=C(C=C(C=C1)Cl)Cl)C(=O)NOCC1=CC=CC=C1)=O | C29H29Cl2N3O3
reactant | nitrourea | 53 mg | [N+](=O)([O-])NC(=O)N | CH3N3O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (3RS,4RS)—N-(benzyloxy)-2-[(1SR,2SR)-2-(carbamoylamino)cyclohexyl]-3-(2,4-dichlorophenyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 155 mg | C(C1=CC=CC=C1)ONC(=O)C1C(N(C(C2=CC=CC=C12)=O)C1C(CCCC1)NC(N)=O)C1=C(C=C(C=C1)Cl)Cl | C30H30Cl2N4O4
